US07138425B2
a) 2-(3-Amino-4-methylphenyl)benzoxazole
Prepared by the method of Example 1a), from 2-aminophenol (720 mg, 7.0 mmol) and 3-amino-4-methylbenzoic acid (1.00 g, 7.0 mmol) the subtitle compound was obtained, 942 mg (57%). 1H NMR (DMSO) δ 7.67(m, 2H), 7.42(s, 1H), 7.31(m, 2H), 7.24(d, 1H), 7.07(d, 1H), 2.43(s, 3H). MS 225 m/z (M+H)+.

reactant | 2-aminophenol | 7.0 mmol, 720 mg | NC1=C(C=CC=C1)O | C6H7NO
reactant | 3-amino-4-methylbenzoic acid | 7.0 mmol, 1.00 g | NC=1C=C(C(=O)O)C=CC1C | C8H9NO2
product | 2-(3-Amino-4-methylphenyl)benzoxazole | NC=1C=C(C=CC1C)C=1OC2=C(N1)C=CC=C2 | C14H12N2O
